US08304419B2
Step A: Ethyl 3-bromo-5-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1H-indole-2-carboxylate
N-Bromosuccinimide (0.095 g, 0.536 mmol) was added to a solution of ethyl 5-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1H-indole-2-carboxylate (0.163 g, 0.536 mmol) in dichloromethane (5 mL). The mixture was stirred at room temperature overnight. The solvent was evaporated. The residue was taken up in ethyl acetate and washed with water. The organic layer was dried over sodium sulfate and concentrated to give the title compound (0.186 g, 48%) as an off-white solid. 1H NMR (400 MHz, chloroform-d) δ ppm 8.97 (br. s., 1H), 7.70 (s, 1H), 7.28-7.39 (m, 2H), 6.54 (br. s., 1H), 4.33-4.54 (m, 2H), 1.54 (s, 9H), 1.39-1.48 (m, 3H). ES MS: m/z 381, 383.

reactant | N-Bromosuccinimide | 0.536 mmol, 0.095 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | ethyl 5-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1H-indole-2-carboxylate | 0.536 mmol, 0.163 g | CC(C)(C)OC(=O)NC=1C=C2C=C(NC2=CC1)C(=O)OCC | C16H20N2O4
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | Ethyl 3-bromo-5-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1H-indole-2-carboxylate | 0.186 g, 48% | BrC1=C(NC2=CC=C(C=C12)NC(=O)OC(C)(C)C)C(=O)OCC | C16H19BrN2O4
